US08440666B2
4,5-Dibromo-2-(pyridin-4-ylmethyl)pyridazin-3(2H)-one
4-Picolylhydrazine hydrochloride (500 mg, 3.13 mmol), mucobromic acid (807 mg, 3.13 mmol) and concentrated hydrochloric acid (500 μL) in ethanol (5 mL) were stirred at 90° C. for 1 day. After completion of the reaction, the resulting crystals were collected by filtration, washed with methanol and dried to give the desired product (59% yield).

reactant | 4-Picolylhydrazine hydrochloride | 3.13 mmol, 500 mg | Cl.N1=CC=C(C=C1)CNN
reactant | mucobromic acid | 3.13 mmol, 807 mg | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
reactant | hydrochloric acid | 500 μL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4,5-Dibromo-2-(pyridin-4-ylmethyl)pyridazin-3(2H)-one | 59% yield | BrC=1C(N(N=CC1Br)CC1=CC=NC=C1)=O | C10H7Br2N3O
